US04255332
Lithium clavulanate (7.15 g, estimated purity 68% pfa; 0.025 M) was stirred in water (45 mls) and about 200 mg insoluble material filtered off. The filtrate (dark brown) was chilled in an ice bath and the potassium phosphate (10.1 mls of 1 M solution; 1.2 equivalents) added in one lot. Isopropanol (32 mls) was added over 1/2 hr by which time some gummy material separated out. The mixture was made up to 100 ml with acetone over 1/4 hr and transferred to another vessel leaving behind a pale gummy deposit. The decanted liquor was then made up to 800 ml with acetone causing the precipitation of highly coloured (brown) gummy material which was separated off via filtration with celite (4 gm). The clear pale yellow solution was then added to acetone (1750 ml) over 1 hr, stirring vigorously and the mixture was then filtered to afford a pale yellow solid which was washed with acetone (3×50 ml) and dried on a fluid bed dryer to yield potassium clavulanate (2 g, 81.2% pfa, 33% recovery).

reactant | Lithium clavulanate | [Li+].C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-]
reactant | potassium phosphate | 1 M, 10.1 mls, 1.2 equivalents | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Isopropanol | 32 mls | C(C)(C)O | C3H8O
reactant | acetone | CC(=O)C | C3H6O
solvent | water | 45 mls | O | H2O
product | potassium clavulanate | 2 g | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-].[K+] | InChI=1S/C8H9NO5.K/c10-2-1-4-7(8(12)13)9-5(11)3-6(9)14-4;/h1,6-7,10H,2-3H2,(H,12,13);/q;+1/p-1/b4-1-;/t6-,7-;/m1./s1
